US08349850B2
4-Hydroxy-7-trifluoromethyl-3-(hydroxymethyl)-quinoline (3.6 grams) was added to an excess (5.9 grams) of thionyl chloride and the mixture was refluxed for 1 hour. Excess thionyl chloride was then evaporated and the remaining residue was crystallized from hexane to give 4-hydroxy-7-trifluoromethyl-3-(chloromethyl)-quinoline (3.2 grams).

reactant | 4-Hydroxy-7-trifluoromethyl-3-(hydroxymethyl)-quinoline | 3.6 grams | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)CO | C11H8F3NO2
reactant | thionyl chloride | 5.9 grams | S(=O)(Cl)Cl | Cl2OS
product | 4-hydroxy-7-trifluoromethyl-3-(chloromethyl)-quinoline | 3.2 grams | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)CCl | C11H7ClF3NO
